US07553973B2
Step 1: Ethyl 2-hydroxy-2-(trifluoromethyl)butanoate
To a −78° C. solution of ethyl trifluoropyruvate (129.0 g 758 mmol) in ether was added dropwise within 90 min a solution of EtMgBr 3.0 M in ether (252 mL). The solution was brought over one 1 h to ca. −10° C. and poured over 2 L of saturated NH4Cl. The layers were separated and the aqueous phase extracted with ether (3×500 mL). The organic phases were combined, dried over MgSO4 and the solvent removed. Distillation at 50-65° C. (30 mm Hg) gave the title compound. 1H NMR (400 MHz, acetone-d6): δ 5.4 (s, 1H), 4.35 (q, 2H), 2.07 (m, 1H), 1.83 (m, 1H), 1.3 (t, 3H) and 0.93 (t, 3H).

reactant | ethyl trifluoropyruvate | 758 mmol, 129.0 g | FC(C(C(=O)OCC)=O)(F)F | C5H5F3O3
reactant | EtMgBr | 3.0 M | CC[Mg+].[Br-]
reactant | NH4Cl | 2 L | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
solvent | ether | 252 mL | CCOCC | C4H10O
product | Ethyl 2-hydroxy-2-(trifluoromethyl)butanoate | OC(C(=O)OCC)(CC)C(F)(F)F | C7H11F3O3
